US06355799B1
Preparation of 3-(4-chloro-6-fluoro-3-methyl-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione
Ethyl 3-amino-4,4,4-trifluorocrotonate (6.1 g, 33.1 mmol) was dissolved in dimethylformamide (47 ml) and stirred at −10 ° C. To this solution was slowly added 1,8-diazabicyclo[5.4.0]undec-7-ene (6.3 g, 41.4 mmol) and solution stirred for 0.5 hr. To this solution was slowly added a solution of 4-chloro-2-fluoro-5-methyl-6-nitro-N-phenoxycarbonylaniline (8.5 g) in dimethylformamide (25 ml) followed by stirring at ambient temperature for 14 hr. Solution was then heated to 80 ° C. and stirred at this temperature for 4 hr. Water was added and pH adjusted to 4 by addition of dilute hydrochloric acid. Product was extracted with ethyl acetate followed by evaporation of the solvent to afford the crude product (10.1 g) which was subjected to N-methylation as follows.

reactant | Ethyl 3-amino-4,4,4-trifluorocrotonate | 33.1 mmol, 6.1 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 41.4 mmol, 6.3 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-chloro-2-fluoro-5-methyl-6-nitro-N-phenoxycarbonylaniline | 8.5 g | ClC1=CC(=C(NC(=O)OC2=CC=CC=C2)C(=C1C)[N+](=O)[O-])F | C14H10ClFN2O4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 47 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 3-(4-chloro-6-fluoro-3-methyl-2-nitrophenyl)-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 10.1 g | ClC1=C(C(=C(C(=C1)F)N1C(NC(=CC1=O)C(F)(F)F)=O)[N+](=O)[O-])C | C12H6ClF4N3O4
